US05864039
4-Amino-5-chloro-2-methoxy-N-(piperidin-4-ylmethyl)benzamide dihydrochloride (1.50 g) as starting compound and 5-(cyclohexylmethoxy)pentyl bromide (1.30 g) were reacted and treated in the same manner as in Example 168 to give 0.51 g of 4-amino-5-chloro-2-methoxy-N-((1-(5-(cyclohexylmethoxy)pentyl)piperidin-4-yl)methyl)benzamide hydrochloride.

reactant | 4-Amino-5-chloro-2-methoxy-N-(piperidin-4-ylmethyl)benzamide dihydrochloride | 1.50 g | Cl.Cl.NC1=CC(=C(C(=O)NCC2CCNCC2)C=C1Cl)OC
reactant | 5-(cyclohexylmethoxy)pentyl bromide | 1.30 g | C1(CCCCC1)COCCCCCBr | C12H23BrO
product | 4-amino-5-chloro-2-methoxy-N-((1-(5-(cyclohexylmethoxy)pentyl)piperidin-4-yl)methyl)benzamide hydrochloride | 0.51 g | Cl.NC1=CC(=C(C(=O)NCC2CCN(CC2)CCCCCOCC2CCCCC2)C=C1Cl)OC | InChI=1S/C26H42ClN3O3.ClH/c1-32-25-17-24(28)23(27)16-22(25)26(31)29-18-20-10-13-30(14-11-20)12-6-3-7-15-33-19-21-8-4-2-5-9-21;/h16-17,20-21H,2-15,18-19,28H2,1H3,(H,29,31);1H
